US04908367
A suspension of 2 g of N-(2-hydroxyphenyl)-1H-indol-4-carboxamide and 2.18 g of potassium carbonate in 20 ml of acetone was admixed with 3.2 ml of 1,3-dibromopropane and the mixture was refluxed for 90 minutes and was filtered. The solvent was evaporated under reduced pressure and the residue was chromatographed over silica (eluant: chloroform/ethyl acetate/triethylamine 6:3:1 to obtain 2.37 g of N-[2-[3-bromopropoxy)phenyl]-1H-indole-4-carboxamide melting at 145° C.

reactant | N-(2-hydroxyphenyl)-1H-indol-4-carboxamide | 2 g | OC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C15H12N2O2
reactant | potassium carbonate | 2.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 3.2 ml | BrCCCBr | C3H6Br2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-[2-[3-bromopropoxy)phenyl]-1H-indole-4-carboxamide | 2.37 g | BrCCCOC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C18H17BrN2O2
